US07304068B2
3-Bromo-7-chloro-2-phenylpyrazolo[1,5-α]pyrimidine (100 mg, 0.32 mmol) was dissolved in ethanol. To this solution was added pyrrolidine (0.5 mL) and the reaction mixture heated at reflux for 10 minutes. The resulting mixture was concentrated in vacuo, then dissolved in dichloromethane and the organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated. The resulting solid was crystallized from methanol to give 85 mg (77%) of 3-bromo-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine as a solid. 1H NMR (CDCl3):δ 8.17 (m, 3H), 7.50 (m, 3H), 5.80 (d, 1H), 4.09 m (broad s, 4H), 2.10 (broad s, 4H); MS m/z 343 (M+1).

reactant | 3-Bromo-7-chloro-2-phenylpyrazolo[1,5-α]pyrimidine | 0.32 mmol, 100 mg | BrC=1C(=NN2C1N=CC=C2Cl)C2=CC=CC=C2 | C12H7BrClN3
reactant | pyrrolidine | 0.5 mL | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | 3-bromo-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine | 85 mg, 77% | BrC=1C(=NN2C1N=CC=C2N2CCCC2)C2=CC=CC=C2 | C16H15BrN4
